US07750003B2
Phenyl N-[4-[4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.482 mL, 3.83 mmol) was added dropwise to 4-[4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (1.8 g, 3.83 mmol) and sodium bicarbonate (0.482 g, 5.74 mmol) in dioxane (20 mL) under nitrogen. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was evaporated to dryness and redissolved in DCM (50 mL) and washed with water (50 mL). The organic layer was dried (MgSO4), filtered and evaporated to give crude product which was triturated with diethyl ether to give the desired material as a white solid (2.26 g).

reactant | Phenyl chloroformate | 3.83 mmol, 0.482 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 3.83 mmol, 1.8 g | FC1=CC=C(C=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H27FN4O3S
reactant | sodium bicarbonate | 5.74 mmol, 0.482 g | C([O-])(O)=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 2.26 g | FC1=CC=C(C=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C31H31FN4O5S
